US04997845
Following the procedure of Example 2, 1.85 g (6.18 mmoles) of 1-oxo-4-methyl-6-methoxy-7,8-dichloro-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole were hydrolyzed with aqueous alcoholic KOH. The yield of crude amino acid, 2-carboxy-3-(1-amino-2-propyl)-5-methoxy-6,7-dichloroindole, thus formed was quantitative. The amino acid was decarboxylated without further purification, using the procedure of Example 2, with 3M hydrochloric acid for 48 hours to yield 3-(1-amino-2-propyl)-5-methoxy-6,7-dichloroindole.

reactant | 1-oxo-4-methyl-6-methoxy-7,8-dichloro-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 6.18 mmoles, 1.85 g | O=C1NCC(C2=C1NC1=C(C(=C(C=C21)OC)Cl)Cl)C | C13H12Cl2N2O2
reactant | KOH | [OH-].[K+]
product | 2-carboxy-3-(1-amino-2-propyl)-5-methoxy-6,7-dichloroindole | C(=O)(O)C=1NC2=C(C(=C(C=C2C1C(CN)C)OC)Cl)Cl | C13H14Cl2N2O3
